US04342870
A solution of 2 parts of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one in 64 parts of 2-propanol is warm acidified with 2-propanol saturated with hydrogen chloride. The formed hydrochloride salt is allowed to crystallize. It is filtered off and dried, yielding 2 parts (85.5%) of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one dihydrochloride; mp. +300° C.

reactant | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | FC1=CC=C(C(=O)C2CCN(CC2)CCC2=C(N=C3N(C2=O)C=CC=C3)C)C=C1 | C23H24FN3O2
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one dihydrochloride | 85.5% | Cl.Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCC2=C(N=C3N(C2=O)C=CC=C3)C)C=C1 | InChI=1S/C23H24FN3O2.2ClH/c1-16-20(23(29)27-12-3-2-4-21(27)25-16)11-15-26-13-9-18(10-14-26)22(28)17-5-7-19(24)8-6-17;;/h2-8,12,18H,9-11,13-15H2,1H3;2*1H
